US05153196
4,5-Dichloro-1,2-phenylenediamine (25 g, 141.2 mmol) was suspended in 780 ml EtOH, and 13 g (142.0 mmol) of glyoxylic acid (HO2CCOH/H2O) was added. The mixture was heated at reflux for 3 hours, and then cooled and filtered, yielding 27.45 g of 6,7-dichloroquinoxalin-2-one as a solid. The product (25 g, 116.3 mmol) and 230 ml (911.7 mmol) of phosphorus oxychloride (POCl3) were stirred at reflux (100° C.) for 3 hours. The mixture was cooled and ice/H2O added. The resulting brown/grey solid was filtered, and dried in an oven, yielding approximately 25 g of 2,6,7-trichloroquinoxaline

reactant | 4,5-Dichloro-1,2-phenylenediamine | 141.2 mmol, 25 g | ClC1=CC(=C(C=C1Cl)N)N | C6H6Cl2N2
reactant | glyoxylic acid | 142.0 mmol, 13 g | C(C=O)(=O)O | C2H2O3
solvent | EtOH | 780 ml | CCO | C2H6O
product | 6,7-dichloroquinoxalin-2-one | 27.45 g | ClC=1C=C2N=CC(NC2=CC1Cl)=O | C8H4Cl2N2O
